US04783472
7-Chloroformyl-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole hydrochloride (6.9 g) is added, at a temperature between 50° and 85° C., to a solution of 3-(3-aminobenzoyl)pyridine (5.75 g) and triethylamine (4.65 g) in dioxane (120 cc) which is heated to a temperature in the vicinity of 50° C., in the course of 25 minutes. The suspension obtained is heated, with stirring, at a temperature in the vicinity of 100° C. for 6 hours and then stirred at a temperature in the vicinity of 20° C. for 16 hours. The solvent is evaporated off under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 60° C. The residue is dissolved in methylene chloride (350 cc) and the solution obtained is washed twice with distilled water (200 cc in total), twice with an aqueous 2N sodium hydroxide solution (200 cc in total) and 3 times with distilled water (450 cc) and then dried over anhydrous magnesium sulphate, treated with decolourizing charcoal (0.5 g), filtered and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 50° C. The product obtained is chromatographed on an 8 cm diameter column containing silica (0.02-0.045 mm; 500 g). Elution is carried out with mixtures of ethyl acetate and methanol at a pressure of 0.4 bar (40 kPa), collecting 500 cc fractions. The first 19 fractions originating from elution with pure ethyl acetate are discarded. The following 2 fractions originating from elution with pure ethyl acetate and the following 2 fractions originating from elution with an ethyl acetate:methanol (90:10 by volume) mixture are combined and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 50° C. A crude product (8 g) is thereby obtained. This product is dissolved in boiling acetonitrile (50 cc). Decolourizing chacoal (0.5 g) is added to the solution obtained and the suspension is filtered in the heated state. The filtrate obtained is cooled at a temperature in the vicinity of 4° C. for 1 hour. The crystals formed are separated by filtration, washed twice with acetonitrile cooled to a temperature in the vicinity of 4° C. (20 cc in total) and twice with diethyl ether (40 cc in total) and then dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 20° C. in the presence of potassium hydroxide pellets. N-(3-nicotinoyl- phenyl)-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide (4.9 g) in the form of cream-coloured crystals, m.p. 160° C., is thereby obtained.

reactant | 7-Chloroformyl-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole hydrochloride | 6.9 g | Cl.ClC(=O)C=1C=CN2C(SCC21)C=2C=NC=CC2
reactant | 3-(3-aminobenzoyl)pyridine | 5.75 g | NC=1C=C(C(=O)C=2C=NC=CC2)C=CC1 | C12H10N2O
reactant | triethylamine | 4.65 g | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 50 cc | C(C)#N | C2H3N
solvent | dioxane | 120 cc | O1CCOCC1 | C4H8O2
product | N-(3-nicotinoyl- phenyl)-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide | 4.9 g | C(C1=CN=CC=C1)(=O)C=1C=C(C=CC1)NC(=O)C=1C=CN2C(SCC21)C=2C=NC=CC2 | C24H18N4O2S
